US06355660B1
A solution of methyl 3-benzyloxypicolinate (4.86 g) and 3-chloroperoxybenzoic acid (5.75 g, 60% peracid) in CH2Cl2 (100 mL) was stirred at room temperature for 40 hours. The reaction mixture was then extracted with 5% sodium bisulfite solution (100 mL) then with 0.5N NaOH solution (150 mL). After drying (MgSO4), the solvent was evaporated to give 4.9 g of methyl 3-benzyloxypicolinate-1-oxide as a white solid. Recrystallization from methylcyclohexane/toluene gave a crystalline solid, m.p. 104-106° C.

reactant | methyl 3-benzyloxypicolinate | 4.86 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C(=O)OC | C14H13NO3
reactant | 3-chloroperoxybenzoic acid | 5.75 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-benzyloxypicolinate-1-oxide | 4.9 g | C(C1=CC=CC=C1)OC1=C([N+](=CC=C1)[O-])C(=O)OC | C14H13NO4
